### PR TITLE
[Merged by Bors] - feat: lemmas about parity and `Nat.antidiagonal`

### PR DESCRIPTION
**Pull request by ocfnash**
---

Intended to help with #6139

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Parity.lean [hunk 1]
```diff
@@ -134,6 +134,7 @@ theorem Even.neg_pow : Even n → ∀ a : α, (-a) ^ n = a ^ n := by
   simp_rw [← two_mul, pow_mul, neg_sq]
 #align even.neg_pow Even.neg_pow
 
+@[simp]
```
Comment (urkud) [inline Mathlib/Algebra/Parity.lean:137]: Why not add `@[simp]` to `Even.neg_pow` and `Odd.neg_pow` instead?

File: Mathlib/NumberTheory/Cyclotomic/Discriminant.lean [hunk 2]
```diff
@@ -153,7 +153,7 @@ theorem discr_prime_pow [hcycl : IsCyclotomicExtension {p ^ k} K L] [hp : Fact (
       minpoly.eq_X_sub_C_of_algebraMap_inj _ (algebraMap K L).injective, natDegree_X_sub_C]
     simp only [traceMatrix, map_one, one_pow, Matrix.det_unique, traceForm_apply, mul_one]
     rw [← (algebraMap K L).map_one, trace_algebraMap, finrank _ hirr]
-    simp; norm_num
+    simp
```
Comment (urkud) [inline Mathlib/NumberTheory/Cyclotomic/Discriminant.lean:156]: Could you please fix this non-terminal `simp`? Either use `simp only` or `suffices ... by simpa`

File: Mathlib/Algebra/Parity.lean (hunk 1 above)
Comment (ocfnash) [reply Mathlib/Algebra/Parity.lean]: Better, thanks!

File: Mathlib/NumberTheory/Cyclotomic/Discriminant.lean (hunk 2 above)
Comment (ocfnash) [reply Mathlib/NumberTheory/Cyclotomic/Discriminant.lean:156]: All is well: this is a already terminal simp!

File: Mathlib/Algebra/Parity.lean [hunk 3]
```diff
@@ -351,6 +352,14 @@ theorem odd_two_mul_add_one (m : α) : Odd (2 * m + 1) :=
...
 #align odd_two_mul_add_one odd_two_mul_add_one
 
+@[simp] lemma odd_add_self_one : Odd (m + m + 1) := ⟨m, by rw [two_mul]⟩
+
+@[simp] lemma odd_add_self_one' : Odd (m + (m + 1)) := by simp [← add_assoc]
+
+@[simp] lemma odd_add_one_self : Odd (m + 1 + m) := by simp [add_comm _ m]
+
+@[simp] lemma odd_add_one_self' : Odd (m + (1 + m)) := by simp [add_comm]
+
```
Comment (eric-wieser) [inline Mathlib/Algebra/Parity.lean:362]: I'm not convinced this is a particularly sensible use of `simp`; clearly we can't scale to `Odd (x + y + 1 + x + y)` etc, and so maybe this is best left to `norm_num`

File: Mathlib/Data/Finset/NatAntidiagonal.lean [hunk 4]
```diff
@@ -126,6 +126,14 @@ theorem filter_snd_eq_antidiagonal (n m : ℕ) :
   simp [filter_map, this, filter_fst_eq_antidiagonal, apply_ite (Finset.map _)]
 #align finset.nat.filter_snd_eq_antidiagonal Finset.Nat.filter_snd_eq_antidiagonal
 
+@[simp] lemma antidiagonal_filter_le_fst {n : ℕ} :
+    (antidiagonal n).filter (fun a ↦ n ≤ a.fst) = {(n, 0)} := by
+  ext; aesop
```
Comment (eric-wieser) [inline Mathlib/Data/Finset/NatAntidiagonal.lean:131]: There's a more general result here, that `(antidiagonal n).filter (fun a ↦ k ≤ a.fst)` is `(antidiagonal (n - k)).map (Function.Embedding.prodMap sorry Embedding.refl)`; can you add that one instead, since I think your result then follows by `simp`.

Comment (ocfnash) [reply Mathlib/Data/Finset/NatAntidiagonal.lean]: Neat, done!

I also confirm that my original lemmas do now follow by `simp`.

File: Mathlib/Algebra/Parity.lean (hunk 3 above)
Comment (ocfnash) [reply Mathlib/Algebra/Parity.lean:362]: I agree that these lemmas are (at best) on the border of `simp`'s responsibilities.

Personally I am think they're worth keeping but if you're not persuaded, I'll excise them.

Comment (eric-wieser) [reply Mathlib/Algebra/Parity.lean:362]: Is there a reason you didn't include `1 + m + m` and `1 + (m + m)` here?

File: Mathlib/Algebra/Parity.lean [hunk 5]
```diff
@@ -351,6 +352,14 @@ theorem odd_two_mul_add_one (m : α) : Odd (2 * m + 1) :=
   ⟨m, rfl⟩
 #align odd_two_mul_add_one odd_two_mul_add_one
 
+@[simp] lemma odd_add_self_one : Odd (m + m + 1) := ⟨m, by rw [two_mul]⟩
```
Comment (eric-wieser) [inline Mathlib/Algebra/Parity.lean:355]: This one should follow a more reasonable pair of lemmas that `Even (m + m)` and `Odd (e +1)` where `Even e`

File: Mathlib/NumberTheory/Cyclotomic/Discriminant.lean (hunk 2 above)
Comment (eric-wieser) [reply Mathlib/NumberTheory/Cyclotomic/Discriminant.lean:156]: Is this related to the addition of the new parity simp lemmas? I so, does
```suggestion
    norm_num
```
by itself work, as I believe that calls `simp`.

File: Mathlib/Algebra/Parity.lean (hunk 3 above)
Comment (ocfnash) [reply Mathlib/Algebra/Parity.lean:362]: Nope, I should have included them. Now added.

File: Mathlib/Algebra/Parity.lean (hunk 5 above)
Comment (ocfnash) [reply Mathlib/Algebra/Parity.lean:355]: OK I've added `Even.add_one` and `Even.one_add` instead of the two less general versions they imply. This is sufficient as `even_add_self` already exists.

File: Mathlib/NumberTheory/Cyclotomic/Discriminant.lean (hunk 2 above)
Comment (ocfnash) [reply Mathlib/NumberTheory/Cyclotomic/Discriminant.lean:156]: Yes, the two changes to this file are necessary because of the `simp`-lemma tinkering. I've changed this to `norm_num`.

File: Mathlib/Algebra/Parity.lean [hunk 6]
```diff
@@ -347,18 +350,22 @@ theorem odd_one : Odd (1 : α) :=
   ⟨0, (zero_add _).symm.trans (congr_arg (· + (1 : α)) (mul_zero _).symm)⟩
 #align odd_one odd_one
 
+@[simp] lemma Even.add_one (h : Even m) : Odd (m + 1) := h.add_odd odd_one
+
+@[simp] lemma Even.one_add (h : Even m) : Odd (1 + m) := h.odd_add odd_one
+
 @[simp]
 theorem odd_two_mul_add_one (m : α) : Odd (2 * m + 1) :=
```
Comment (eric-wieser) [inline Mathlib/Algebra/Parity.lean:358]: Seeing that we have this lemma is enough to convince me that your new lemmas are fine.

**Review by eric-wieser — APPROVED** [review]
bors d+

Thanks!

File: Mathlib/Data/Finset/NatAntidiagonal.lean [hunk 7]
```diff
@@ -122,10 +128,35 @@ theorem filter_snd_eq_antidiagonal (n m : ℕ) :
...
   have : (fun x : ℕ × ℕ ↦ (x.snd = m)) ∘ Prod.swap = fun x : ℕ × ℕ ↦ x.fst = m := by
     ext; simp
-  rw [← map_swap_antidiagonal]
-  simp [filter_map, this, filter_fst_eq_antidiagonal, apply_ite (Finset.map _)]
+  rw [← map_swap_antidiagonal, filter_map]
+  simp [this, filter_fst_eq_antidiagonal, apply_ite (Finset.map _)]
 #align finset.nat.filter_snd_eq_antidiagonal Finset.Nat.filter_snd_eq_antidiagonal
 
+@[simp] lemma antidiagonal_filter_le_fst_of_le {n k : ℕ} (h : k ≤ n) :
+    (antidiagonal n).filter (fun a ↦ k ≤ a.fst) = (antidiagonal (n - k)).map
```
Comment (eric-wieser) [inline Mathlib/Data/Finset/NatAntidiagonal.lean:136]: There's another version with `(antidiagonal n).filter (fun a ↦ a.fst ≤ k) = (antidiagonal k)).map` that's also true, right? Is it of any use to you?

Comment (eric-wieser) [reply Mathlib/Data/Finset/NatAntidiagonal.lean:162]: Thanks!

**Comment by eric-wieser** [comment]
bors r-

(shuffling some bors batches)
